US04256908
Using the same reaction tube and catalyst as in Example 1, a gaseous mixture consisting of carbon monoxide, ketene, n-hexyl nitrite and nitrogen (55:0.8:6.7:37.5, volume ratio) was introduced into the reaction tube at a rate of 39.6 l./hr. and the reaction was conducted at a temperature of 120° C. under ordinary pressure. After reaction, the reaction product was analyzed by gas chromatography. As the result, it was found that di-n-hexyl malonate was produced at a rate of 24 g/l·(catalyst)·hr. and di-n-hexyl oxalate was produced as a by-product.

reactant | carbon monoxide | [C]=O | CO
reactant | ketene | C=C=O | C2H2O
reactant | n-hexyl nitrite | N(=O)OCCCCCC | C6H13NO2
reactant | di-n-hexyl malonate | C(CC(=O)OCCCCCC)(=O)OCCCCCC | C15H28O4
product | di-n-hexyl oxalate | C(C(=O)OCCCCCC)(=O)OCCCCCC | C14H26O4
